US06469020B2
4(R)-Benzyl-3-[2-(R)-(3,4dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butanoyl]-oxazolidin-2-one
4-(R)-Benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one (370 mg) was added to a solution of 1,2,3,4-tetrahydro-benzo[4,5]thieno[2,3-c]pyridine hydrochloride (230 mg) and triethylamine (0.30 ml) in dichloromethane (20 ml) and the reaction stirred at room temperature for 18 h. The mixture was washed with water (30 ml) and brine (20 ml), dried (MgSO4), filtered and evaporated under reduced pressure to give the title compound (180 mg) in crude form.

reactant | 4-(R)-Benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one | 370 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
reactant | 1,2,3,4-tetrahydro-benzo[4,5]thieno[2,3-c]pyridine hydrochloride | 230 mg | Cl.C1NCCC2=C1SC1=C2C=CC=C1
reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4(R)-Benzyl-3-[2-(R)-(3,4dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butanoyl]-oxazolidin-2-one | 180 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CC2=C(CC1)C1=C(S2)C=CC=C1)=O | C27H30N2O5S2
